US06544985B2
7-Dimethylamino-8-(2-fluoro-phenyl)-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {2-dimethylamino-2′-fluoro-5-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example M70) (810 mg, 1.45 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (61 mg).

reactant | {2-dimethylamino-2′-fluoro-5-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester | 1.45 mmol, 810 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)C1=C(C=CC=C1)F)N(C)C)=O | C30H31FN6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-8-(2-fluoro-phenyl)-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NC=C2)=O)C=C1C1=C(C=CC=C1)F)C | C25H21FN6O
